US06608203B2
6-Methoxy-1-[1-(1-methyl-1H-imidazole-4-sulfonyl)-piperidin-4-yl]-1,2,3,4-tetrahydroisoquinoline
To a stirred solution of 6-methoxy-1-[1-(1-methyl-1H-imidazole-4-sulfonyl)-piperidin-4-yl]-3,4-dihydro-isoquinoline (0.077 g, 0.197 mmol) in MeOH (3 ml) cooled to 0° C. was added NaBH4. The reaction mixture was then stirred at RT for 2 hours and diluted with water (5 ml) and sat. NaHCO3 (5 ml). The mixture was extracted with EtOAc (3×10 ml). The combined organics were washed with brine (1×10 ml), dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by radial chromatography (SiO2, 1 mm, CH2Cl2 to 5% MeOH/CH2Cl2) to give the product as an oil (0.055 g, 0.141 mmol, 71% yield).

reactant | 6-methoxy-1-[1-(1-methyl-1H-imidazole-4-sulfonyl)-piperidin-4-yl]-3,4-dihydro-isoquinoline | 0.197 mmol, 0.077 g | COC=1C=C2CCN=C(C2=CC1)C1CCN(CC1)S(=O)(=O)C=1N=CN(C1)C | C19H24N4O3S
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
product | 6-Methoxy-1-[1-(1-methyl-1H-imidazole-4-sulfonyl)-piperidin-4-yl]-1,2,3,4-tetrahydroisoquinoline | 0.141 mmol, 0.055 g, 71% yield | COC=1C=C2CCNC(C2=CC1)C1CCN(CC1)S(=O)(=O)C=1N=CN(C1)C | C19H26N4O3S
